US07157488B2
N-(2-(6-Chloro-1H-indol-3-yl)ethyl)-N-isopropyl-3-(2,2,3,3,3-pentafluoropropoxy)benzylamine
Combine N-(2-(6-Chloro-1H-indol-3-yl)ethyl)-3-(2,2,3,3,3-pentafluoropropoxy)benzylamine (254 mg, 0.59 mmol) in 20 mL of 95:5 methanol-acetic acid, treat with acetone (441 μL, 5.9 mmol) followed by sodium cyanoborohydride in portions (148 mg, 2.3 mmol). Stir the reaction mixture at 50° C. overnight; then at room temperature for an additional 2 days. Remove the solvent in vacuo to give a residue. Chromatograph the residue on silica gel eluting with 4% methanol in dichloromethane to give the title compound as a colorless oil. Dissolve the oil (237 mg, 0.49 mmol) in methanol (15 mL) and treat with a solution of ammonium chloride (27 mg, 0.49 mmol) in methanol (5 mL). Sonicate the mixture for 10 minutes before concentrating it to a tacky white solid. Dissolve the tacky solid in 10 mL of 1:1 acetonitrile-water and lyophilize to give 241 mg (96%) of the title compound as the hydrochloride: mp: 77.0–80.2° C.; 1H NMR (400 MHz, methanol-d4): 7.31 (br t, 1H, J=7.8 Hz), 7.26–7.21 (m, 1H), 7.16 (br d, 1H, J=8.4 Hz), 7.15–7.07 (m, 2H), 7.05–6.95 (m, 2H), 6.83 (dd, 1H, J=8.0, 2.0 Hz), 4.52 (t, 2H, J=12.8 Hz), 4.12 (br s, 2H), 3.53 (br s, 1H), 3.11 (br s, 2H), 2.89 (br s, 2H), 1.27 (br s, 6H); MS (APCI): m/e 475.1 (M+1).

reactant | N-(2-(6-Chloro-1H-indol-3-yl)ethyl)-3-(2,2,3,3,3-pentafluoropropoxy)benzylamine | 0.59 mmol, 254 mg | ClC1=CC=C2C(=CNC2=C1)CCNCC1=CC(=CC=C1)OCC(C(F)(F)F)(F)F | C20H18ClF5N2O
reactant | acetone | 5.9 mmol, 441 μL | CC(=O)C | C3H6O
reactant | sodium cyanoborohydride | C(#N)[BH3-].[Na+]
reactant | methanol | CO | CH4O
solvent | methanol acetic acid | 20 mL | CO.C(C)(=O)O
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-(2-(6-Chloro-1H-indol-3-yl)ethyl)-N-isopropyl-3-(2,2,3,3,3-pentafluoropropoxy)benzylamine | ClC1=CC=C2C(=CNC2=C1)CCN(C(C)C)CC1=CC(=CC=C1)OCC(C(F)(F)F)(F)F | C23H24ClF5N2O
